US08012966B2
2-[4-(3-Chloro-2-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-(2-diethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 1 with 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-(3-chloro-2-fluoro-phenyl)-1,3-dihydro-indol-2-one (prepared according to WO2002055517) as starting materials to give 2-[4-(3-chloro-2-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-(2-diethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (30 mg, 30.0%) as a light yellow solid.

reactant | 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC | C15H23N3O2
reactant | 4-(3-chloro-2-fluoro-phenyl)-1,3-dihydro-indol-2-one | ClC=1C(=C(C=CC1)C1=C2CC(NC2=CC=C1)=O)F | C14H9ClFNO
product | 2-[4-(3-chloro-2-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-(2-diethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 30 mg, 30.0% | ClC=1C(=C(C=CC1)C1=C2C(C(NC2=CC=C1)=O)=CC1=C(C=2C(N(CCC2N1)CCN(CC)CC)=O)C)F | C29H30ClFN4O2
